US04977155
A mixture of 2,5 g (7,1 mmol) 4,5-diethoxalylaminobenzofurazan and 20 ml 1N hydrochloric acid was refluxed for 3 h. After cooling to 0° C., the precipitate was filtered off and washed with water to give 1,4 g (97%) 7,8-dihydroxy-1,2,5-oxadiazolo(3,4-f)quinoxaline, m.p.>300° C. NMR (DMSO-d6): 12,8 (1H, broad s), 12.3 (1H, broad s), 7.70 (1H,d), 7.37 (1H,d).

reactant | 4,5-diethoxalylaminobenzofurazan | 7,1 mmol, 2,5 g | C(=O)(C(=O)OCC)NC1=C(C=CC=2C1=NON2)NC(=O)C(=O)OCC | C14H14N4O7
solvent | hydrochloric acid | 1N, 20 ml | Cl | ClH
product | 7,8-dihydroxy-1,2,5-oxadiazolo(3,4-f)quinoxaline | 1,4 g, 97% | OC1=NC=2C=CC=3C(C2N=C1O)=NON3 | C8H4N4O3
